US06872690B2
Preparation of 4-methyl-6-(4-methyl-pent-1-yn-3-enyl)-2-(1-methyl-3-trifluoromethylpyrazol-5-yl-oxy)pyridine
A mixture of isopropyltriphenylphosphine iodide (0.43 g, 1 mmol) in a dry THF (15 ml) is cooled to −70° C. under an inert gas atmosphere. A 2.5 M solution of butyl lithium (0.44 ml) is added and after stirring at −70° C. for 45 min the mixture is heated at 0° C. for 1 h. Then the mixture is cooled to −70° C. and 4-methyl-6-for-mylethynyl-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine 0.3 g, 1 mmol) is added. After stirring for 30 min at −70° C. the reaction mixture is stirred at ambient temperature for 2 days. The mixture is quenched with water, evaporated and to the water containing residue is added ethyl acetate. The mixture is washed with diluted hydrochloric acid and with water. After drying and evaporation, the product (0.15 g) is obtained by flash chromatogy as nearly colorless crystals of mp 85° C.

reactant | isopropyltriphenylphosphine iodide | 1 mmol, 0.43 g | [I-].C(C)(C)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyl lithium | 0.44 ml | C(CCC)[Li]
reactant | 4-methyl-6-for-mylethynyl-2-(1-methyl-3-trifluoromethylpyrazol-5-yloxy)pyridine | 1 mmol, 0.3 g | CC1=CC(=NC(=C1)C#CC=O)OC1=CC(=NN1C)C(F)(F)F | C14H10F3N3O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-methyl-6-(4-methyl-pent-1-yn-3-enyl)-2-(1-methyl-3-trifluoromethylpyrazol-5-yl-oxy)pyridine | 0.15 g | CC1=CC(=NC(=C1)C#CC=C(C)C)OC1=CC(=NN1C)C(F)(F)F | C17H16F3N3O
